US04874876
A 500 mL, round-bottomed, 3-necked flask was charged with 23.0 g (142.7 mmol) of 2-phenyl-5-oxazolone, and 250 mL of dried methylene chloride, and cooled in an ice bath under a nitrogen atmosphere. Using a powder addition funnel, 57.0 g (3.0 equiv.) of aluminum chloride was added over a period of 1 hour to the stirred reaction mixture. After holding for 20 minutes the gradual addition of thiophene (14.4 mL, 1.22 equiv.) was carried out over a 1 hour period. The reaction mixture was then stirred overnight (15 hours) at room temperature, and the reaction was then quenched by the addition of iced water. The product was extracted several times with methylene chloride, and the combined extracts were dried over anhydrous sodium sulfate, filtered, then stripped on a rotary evaporator. After drying at the pump the crude product (33.96 g) was recrystallized from hot methanol with activated charcoal treatment to yield 14.77 g (42.2%) of α-N-benzoylamino-2-acetylthiophene was a white solid; mp 153°-154° C. Re-work of the mother liquor afforded a second batch of product (mp 140°-146° C.), bringing the total yield of product to 47.3%.

reactant | 2-phenyl-5-oxazolone | 142.7 mmol, 23.0 g | C1(=CC=CC=C1)C1OC(C=N1)=O | C9H7NO2
reactant | aluminum chloride | 57.0 g, 3.0 equiv. | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thiophene | 14.4 mL, 1.22 equiv. | S1C=CC=C1 | C4H4S
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | α-N-benzoylamino-2-acetylthiophene | 14.77 g, 42.2% | C(C1=CC=CC=C1)(=O)NCC(=O)C=1SC=CC1 | C13H11NO2S
